### PR TITLE
chore: bump mathlib

### LINKED ISSUE #348: Updates available but manual intervention required
Try `lake update` and then investigate why this update causes the lean build to fail.
Files changed in update:

### PR DESCRIPTION
**Pull request by kbuzzard**
closes #348, #352

### CODE REVIEW

File: FLT/AutomorphicRepresentation/Example.lean [hunk 1]
```diff
@@ -650,7 +650,7 @@ lemma preserves_zsmul {G H : Type*} [Zero G] [Add G] [Neg G] [SMul ℕ G] [SubNe
     (neg : ∀ x, f (-x) = - f x)
     (z : ℤ) (g : G) :
     f (zsmulRec (· • ·) z g) = z • f g := by
-  induction z with
+  induction z using Int.rec with
```
Comment (Ruben-VandeVelde) [inline FLT/AutomorphicRepresentation/Example.lean:653]: I think this also works:
```suggestion
  cases z with
```

**Review by Ruben-VandeVelde — APPROVED** [review]
